US04971975
1-Benzyl-5-ethoxy-1-azoniabicyclo[3.2.1]octane chloride (D8)
A solution of 1-benzyl-5-hydroxy-1-azoniabicyclo-[3.2.1]octane chloride (D7a, 3.05 g, 0.012 mole) in dry DMF (100 ml) under nitrogen was treated with sodium hydride (600 mg of 80% oil dispersion, 0.020 mole) and stirred at room temperature for 40 min. The mixture was then treated with bromoethane (4.7 ml, 0.063 mole) and stirred at room temperature for 16 h. The excess sodium hydride was destroyed by addition of ethanol (5 ml) and the mixture acidified with glacial acetic acid (5 ml) and then concentrated in vacuo to give an orange semi-solid containing the title compound (D8). This was used in the next step without any purification.

reactant | 1-benzyl-5-hydroxy-1-azoniabicyclo-[3.2.1]octane chloride | 0.012 mole, 3.05 g | [Cl-].C(C1=CC=CC=C1)[N+]12CCCC(CC1)(C2)O
reactant | sodium hydride | 0.020 mole, 600 mg | [H-].[Na+]
reactant | bromoethane | 0.063 mole, 4.7 ml | BrCC | C2H5Br
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-5-ethoxy-1-azoniabicyclo[3.2.1]octane chloride | [Cl-].C(C1=CC=CC=C1)[N+]12CCCC(CC1)(C2)OCC | InChI=1S/C16H24NO.ClH/c1-2-18-16-9-6-11-17(14-16,12-10-16)13-15-7-4-3-5-8-15;/h3-5,7-8H,2,6,9-14H2,1H3;1H/q+1;/p-1
